US04725600
To a suspension of 2-chloro-3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine (1.5 g) in ethanol (15 ml) was added N-methylbenzylamine (1.47 ml). The mixture was refluxed for 5 hours. The resulting suspension was dissolved in chloroform, washed with brine, dried over magnesium sulfate and evaporated in vacuo. The obtained syrup was triturated in diisopropyl ether and filtered to afford 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-2-(N-methyl-N-benzylamino)-4-(2,4,6-trimethylphenylimino)pyrimidine (1.18 g).

reactant | 2-chloro-3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine | 1.5 g | ClC1=NC(=CC(N1C)=NC1=C(C=C(C=C1C)C)C)C1=CC(=C(C=C1)OC)OC | C22H24ClN3O2
reactant | N-methylbenzylamine | 1.47 ml | CNCC1=CC=CC=C1 | C8H11N
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-2-(N-methyl-N-benzylamino)-4-(2,4,6-trimethylphenylimino)pyrimidine | 1.18 g | COC=1C=C(C=CC1OC)C1=CC(N(C(=N1)N(CC1=CC=CC=C1)C)C)=NC1=C(C=C(C=C1C)C)C | C30H34N4O2
